US04900743
3-(2-Thienyl)-4-methyl-5-methylsulfinyl-4H-1,2,4-triazole
To a stirred, 0° C., solution of 4-methyl-5-methylthio-3-(2-thienyl)-4H-1,2,4-triazole (4.85 g, 2.29×10-2 mole) and CH2Cl2 (170 ml) was added portionwise m-chloroperoxybenzoic acid (4.95 g, 2.29×10-2 mole). After stirring at room temperature overnight the reaction was washed two times with saturated aqueous NaHCO3 and one time with saturated aqueous NaCl, and dried over anhydrous N2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure yielding an off-white solid which was purified by flash chromatography (40% acetone/EtOAc). Crystallization from EtOAc afforded small colorless plates: 2.78 g (53%), mp 105°-107° C.

reactant | 4-methyl-5-methylthio-3-(2-thienyl)-4H-1,2,4-triazole | 2.29×10-2 mole, 4.85 g | CN1C(=NN=C1SC)C=1SC=CC1 | C8H9N3S2
reactant | m-chloroperoxybenzoic acid | 2.29×10-2 mole, 4.95 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 170 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Thienyl)-4-methyl-5-methylsulfinyl-4H-1,2,4-triazole | S1C(=CC=C1)C1=NN=C(N1C)S(=O)C | C8H9N3OS2
